US05536725
A mixture of 4.8 grams (0.018 mole) of 8-(2-chlorophenylmethyl)-1,4-dioxaspiro[4.5]decane in 25 mL of water and 100 mL of acetic acid was stirred at ambient temperature for about 18 hours. After this time the reaction mixture was carefully partitioned between diethyl ether and an aqueous solution saturated with sodium bicarbonate. The combined ether extracts were then washed with an aqueous solution saturated with sodium chloride. The organic layer was then dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 3.1 grams of 4-(2-chlorophenylmethyl)cyclohexanone, mp 48° C. The NMR spectrum was consistent with the proposed structure.

reactant | 8-(2-chlorophenylmethyl)-1,4-dioxaspiro[4.5]decane | 0.018 mole, 4.8 grams | ClC1=C(C=CC=C1)CC1CCC2(OCCO2)CC1 | C15H19ClO2
solvent | water | 25 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-(2-chlorophenylmethyl)cyclohexanone | 3.1 grams | ClC1=C(C=CC=C1)CC1CCC(CC1)=O | C13H15ClO
